US07078414B2
250 mg 4-methyl-1-pyrimidin-2-yl-1H-pyrrole-3-carboxylic acid methyl ester was dissolved in 0.3 mL of NMP. After addition of 1 g guanidine (preparation according to known literature) the mixture was heated under argon for 1 h to 90° C. Completion of the reaction was checked by LCMS. The mixture was cooled to room temperature and then diluted with water, followed by extraction with ethyl acetate. The organic layer was washed with water (twice), dried over anhydrous sodium sulfate. After filtration the solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column flash chromatography (eluent: dichloromethane/methanol=5/1) to obtain 150 mg of N-(4-methyl-1-pyrimidin-2-yl-1H-pyrrole-3-carbonyl)-guanidine.

reactant | 4-methyl-1-pyrimidin-2-yl-1H-pyrrole-3-carboxylic acid methyl ester | 250 mg | COC(=O)C1=CN(C=C1C)C1=NC=CC=N1 | C11H11N3O2
reactant | guanidine | 1 g | NC(=N)N | CH5N3
solvent | NMP | 0.3 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | N-(4-methyl-1-pyrimidin-2-yl-1H-pyrrole-3-carbonyl)-guanidine | 150 mg | CC=1C(=CN(C1)C1=NC=CC=N1)C(=O)NC(=N)N | C11H12N6O
